US06248766B1
Phenylthioacetamide
A solution of phenylacetonitrile (10.0 g, 85.4 mmol) and diethyl dithiophosphate (17.5 g, 93.9 mmol) in 4N-HCl/ethyl acetate (400 mL) was stirred at room temperature for 16 hours. This reaction mixture was washed with water and saturated aqueous sodium hydrogen carbonate solution, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was crystallized from ethanol to provide 7.1 g of the title compound. Yield 55%.

reactant | phenylacetonitrile | 85.4 mmol, 10.0 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | diethyl dithiophosphate | 93.9 mmol, 17.5 g | P(=S)(SCC)(OCC)[O-]
solvent | HCl ethyl acetate | 400 mL | Cl.C(C)(=O)OCC
product | Phenylthioacetamide | 7.1 g, Yield 55% | C1(=CC=CC=C1)CC(=S)N | C8H9NS
